US04337260
A mixture of 10 g of 1-benzyl-4-carbamoyl-4-piperidino-piperidine, 3 g of 5% palladium-on-charcoal catalyst and 100 ml of water is boiled under reflux for 8 hours, while the toluene formed is removed. The reaction mixture is then cooled, and the catalyst is removed by filtration. The filtrate is concentrated to 10 ml under reduced pressure and is allowed to stand. The precipitated crystals are collected by filtration, dried and recrystallized from chloroform to give 2,3,5,6,7,8-hexahydro-2-oxoimidazo[1,2-a]pyridine-3-spiro-4'-piperidine as colorless crystals, m.p. 220° C., 70% yield.

reactant | 1-benzyl-4-carbamoyl-4-piperidino-piperidine | 10 g | C(C1=CC=CC=C1)N1CCC(CC1)(N1CCCCC1)C(N)=O | C18H27N3O
reactant | water | 100 ml | O | H2O
catalyst | palladium-on-charcoal | 3 g | [Pd] | Pd
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,3,5,6,7,8-hexahydro-2-oxoimidazo[1,2-a]pyridine-3-spiro-4'-piperidine | 70% yield | O=C1N=C2N(CCCC2)C12CCNCC2 | C11H17N3O
